US05362906
Step 3: 3-Hydroxy-7,11,15-trimethylhexadeca-6,10,14-trienoic acid
A solution of methyl 3-hydroxy-7,11,15-trimethylhexadeca-6,10,14-trienoate (139 mg, 430 μmol), ethanol (1 mL) and sodium hydroxide (1N, 440 μL, 440 μmol) was stirred at room temperature for two-hours. The crude mixture was purified by flash chromatography on a 20 mm ID silica gel column. Elution of the column with choloform:acetic acid (40:1/v=v) gave title compound as a colorless gum.

reactant | methyl 3-hydroxy-7,11,15-trimethylhexadeca-6,10,14-trienoate | 430 μmol, 139 mg | OC(CC(=O)OC)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H34O3
reactant | sodium hydroxide | 440 μmol, 1N, 440 μL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-Hydroxy-7,11,15-trimethylhexadeca-6,10,14-trienoic acid | OC(CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C19H32O3
